US04801715
Isopropyl 4-(3-chloro-2-thienyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]-pyridine-3-carboxylate
40 mmol of 3-chloro-thiophene-2-carbaldehyde, 40 mmol of 3-acetoxyacetoacetic acid ester and 40 mmol of isopropyl 3-aminocrotonate are boiled under reflux over NaOH in EtOH, alcoholic hydrochloric acid is then added and the mixture is boiled for 1 hour. It is concentrated and the residue is crystallized.

reactant | 3-chloro-thiophene-2-carbaldehyde | 40 mmol | ClC1=C(SC=C1)C=O | C5H3ClOS
reactant | isopropyl 3-aminocrotonate | 40 mmol | N\C(=C/C(=O)OC(C)C)\C | C7H13NO2
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
solvent | hydrochloric acid | Cl | ClH
product | Isopropyl 4-(3-chloro-2-thienyl)-2-methyl-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]-pyridine-3-carboxylate | ClC1=C(SC=C1)C1C2=C(NC(=C1C(=O)OC(C)C)C)COC2=O | C16H16ClNO4S
